US05604237
1,2,3,4-Tetrahydro-5,6-dimethoxy-2-[2-(4-nitrophenyl)ethyl]isoquinoline
A mixture of 1-(2-bromoethyl)-4-nitrobenzene (0.3 g), 1,2,3,4-tetrahydro-5,6-dimethoxyisoquinoline [0.25 g; R. D. Haworth, J. Chem. Soc., 2281 (1987); Robin D. Clark, J. Med. Chem., 596-600, 33, (1990)] and potassium carbonate (0.5 g) in DMF (25 ml) was heated at 60° for 3 h. The mixture was then filtered and the filtrate evaporated. The residue was taken up in water, extracted with dichloromethane, dried, evaporated and purified by column chromatography eluting with dichloromethane/methanol (99:1) to give the title compound (0.3 g) as an orange solid, MP:97°. NMR includes signals at d 3.6 (2H,s,N--CH2Ar), 3.75 (6H,s,OCH3).

reactant | 1-(2-bromoethyl)-4-nitrobenzene | 0.3 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | 1,2,3,4-tetrahydro-5,6-dimethoxyisoquinoline | 0.25 g | COC1=C2CCNCC2=CC=C1OC | C11H15NO2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-5,6-dimethoxy-2-[2-(4-nitrophenyl)ethyl]isoquinoline | 0.3 g | COC1=C2CCN(CC2=CC=C1OC)CCC1=CC=C(C=C1)[N+](=O)[O-] | C19H22N2O4
